US07049310B2
Preparation of 2-(methylaminomethyl)benzofuran
To a stirred solution of 2-benzofurancarboxaldehyde (2.22 g, 15.2 mmole) in MeOH (5 mL) was added 2 M methylamine in MeOH (15 mL), HOAc (0.86 mL, 15 mmole), and NaBH3CN (1.0 g, 15.9 mmole). The reaction was stirred for 18 h at RT then concentrated under vacuum. The remaining residue was taken up in Et2O, and the solution was washed with 1 N NaOH then brine, dried (Na2SO4), and concentrated to dryness. Purification by flash chromatography on silica gel (5% (5% NH4OH in MeOH)/CHCl3) gave the title compound (1.23 g, 50%) as a pale yellow oil: MS (ES) m/e 162.4 (M+H)+.

reactant | 2-benzofurancarboxaldehyde | 15.2 mmole, 2.22 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | methylamine | 2 M | CN | CH5N
reactant | HOAc | 15 mmole, 0.86 mL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 15.9 mmole, 1.0 g | [BH3-]C#N.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 15 mL | CO | CH4O
product | 2-(methylaminomethyl)benzofuran | 1.23 g, 50% | CNCC=1OC2=C(C1)C=CC=C2 | C10H11NO
